US07858624B2
To a solution of (R)-tert-butyl 2-(methoxy(methyl)carbamoyl)morpholine-4-carboxylate (1.37 g, 5.0 mmol) in THF (10 mL) at −20° C., there was added (4-methoxybutyl)magnesium chloride in THF (1.47 M, 10.2 mL, 15.0 mmol) dropwise such that the temperature remained below −20° C. After addition, the resulting solution was warmed to rt, and quenched with 1 N aq HCl (10 mL). The organic layer was separated, and the aqueous layer was extracted with ether (3×5 mL). The combined organic layers were washed with satd aq NaHCO3 (10 mL) and brine (5 mL), and dried over Na2SO4. The solvent was then removed in vacuo to give (R)-tert-butyl 2-(5-methoxypentanoyl)morpholine-4-carboxylate (1.41 g, 93%), which was used for the next step without purification; MS m/s 324 (M+Na+).

reactant | (R)-tert-butyl 2-(methoxy(methyl)carbamoyl)morpholine-4-carboxylate | 5.0 mmol, 1.37 g | CON(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C | C12H22N2O5
reactant | (4-methoxybutyl)magnesium chloride | COCCCC[Mg]Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15.0 mmol, 1.47 M, 10.2 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 2-(5-methoxypentanoyl)morpholine-4-carboxylate | 1.41 g, 93% | COCCCCC(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C15H27NO5
